US09120793B2
6-(Bromomethyl)-2-(2,6-dimethylphenyl)-[1,2,4]triazolo[1,5-a]pyridine
To a solution of (2-(2,6-dimethylphenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-yl)methanol (148 g, 0.584 mol) in DCM (2.96 L) is added PBr3 (237.3 g, 0.877 mol) at −40° C. The reaction mixture is allowed to warm to temperature and then stirred for a further for 2 hours at room temperature. The reaction is cooled to 0° C., quenched with ice cold water (1.5 L) and saturated sodium bicarbonate solution is added to adjust the pH ˜7.5 to 8. The mixture is diluted with DCM (2 L), the aqueous layer is separated and extracted with DCM (3 L). The organic extracts are combined, washed with water (2×3 L) and brine solution (3 L), dried the organic extracts over sodium sulphate, filtered and evaporated to dryness to give the title compound (140 g, 76%). LCMS m/z 316/318 79Br/81Br (M+H)+.

reactant | (2-(2,6-dimethylphenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-yl)methanol | 0.584 mol, 148 g | CC1=C(C(=CC=C1)C)C1=NN2C(C=CC(=C2)CO)=N1 | C15H15N3O
reactant | PBr3 | 0.877 mol, 237.3 g | P(Br)(Br)Br | Br3P
solvent | DCM | 2.96 L | C(Cl)Cl | CH2Cl2
product | 6-(Bromomethyl)-2-(2,6-dimethylphenyl)-[1,2,4]triazolo[1,5-a]pyridine | 140 g, 76% | BrCC=1C=CC=2N(C1)N=C(N2)C2=C(C=CC=C2C)C | C15H14BrN3
